US06384036B1
Part B: 3-(1-piperidinyl)sulfonyl-2(R)-methylpropionic acid
A 100 mL Fisher/Porter vessel was charged with 1 g of benzyl 3-(1-piperidinyl)sulfonyl-2(R)-methylpropionate 30 mL MeOH and a catalytic amount of 10% Pd—C. The reaction was hydrogenated at 50 psi for 3 hours. After filtration through Celite and concentration in vacuo of 3-(1-piperidinyl)sulfonyl-2(R)-methylpropionic acid was isolated in quantitive yield.

reactant | benzyl 3-(1-piperidinyl)sulfonyl-2(R)-methylpropionate | 30 mL, 1 g | N1(CCCCC1)S(=O)(=O)C[C@@H](C(=O)OCC1=CC=CC=C1)C | C16H23NO4S
catalyst | Pd—C | [Pd] | Pd
product | 3-(1-piperidinyl)sulfonyl-2(R)-methylpropionic acid | N1(CCCCC1)S(=O)(=O)C[C@@H](C(=O)O)C | C9H17NO4S
